US04681888
5-[N-(3,4-dimethoxyphenethyl)-2-aminoethyl]-4,5,6,7-tetrahydro-thieno-(3,2-c)-pyridine
Into a two liter reactor, fitted with an oil-bath and stirring means and under nitrogen circulation, were poured 201.5 g (1 mol) of 5-(2-chloroethyl)-4,5,6,7-tetrahydro-thieno-(3,2-c)-pyridine and slowly, under stirring, 181 g (1 mol) of 3,4-dimethoxyphenethylamine. The reacting mixture was warmed at 110° C. under stirring for two hours. The oily mixture obtained was cooled to about 70°-80° C. and then poured into icy water; after separation, washing, extraction with diethyl ether and drying, the residue was dissolved in a mixture of petroleum ether and isopropyl ether (50/50 by volume) and passed through a silica gel column. Elution was with acetone. The fraction containing the desired compound was evaporated to dryness, treated with diethyl ether and finally with acetone. Yield 163 g (47%) of a white crystalline powder soluble in water, melting at 260° C. (Tottoli) with decomposition, the analysis and NMR of which showed a good correspondence with the formula C19H26N2O2S.

reactant | 5-(2-chloroethyl)-4,5,6,7-tetrahydro-thieno-(3,2-c)-pyridine | 1 mol, 201.5 g | ClCCN1CC2=C(CC1)SC=C2 | C9H12ClNS
reactant | 3,4-dimethoxyphenethylamine | 1 mol, 181 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
solvent | water | O | H2O
product | 5-[N-(3,4-dimethoxyphenethyl)-2-aminoethyl]-4,5,6,7-tetrahydro-thieno-(3,2-c)-pyridine | COC=1C=C(CCNCCN2CC3=C(CC2)SC=C3)C=CC1OC | C19H26N2O2S
